US07812021B2
b) 6-{(SR)-1-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile (XV-B-4)
To a solution of 6-{(SR)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile 0.75 g (1.70 mmol) dissolved in CH3CN (50 mL) was added 0.56 mL (4.14 mmol) of 2,2,2-trichloroethyl chloroformate and stirring was continued for 4 hours at RT. Volatiles were removed under vacuo) and the crude was dissolved in AcOH (30 mL) before a total of 0.45 g of Zn dust was added portion wise. After three hours at RT, the reaction mixture was filtered on celite, the solvent removed under vacuo, followed by an extraction with EtOAc/aq. NaHCO3 (basic pH). The organic phases were dried on Na2SO4 and column chromatography (SiO2, CH2Cl2/MeOH 9:1) yielded 0.36 g (60%) of the title compound as a colorless oil. ES-MS m/e: 362.3 (M+H+).

reactant | 6-{(SR)-1-[(3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile | 1.70 mmol, 0.75 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(C)OC1=NC=C(C#N)C=C1 | C25H23Cl2N3O
reactant | 2,2,2-trichloroethyl chloroformate | 4.14 mmol, 0.56 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 6-{(SR)-1-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-nicotinonitrile | 0.36 g, 60% | ClC=1C=C(C=CC1Cl)C1C(CNC1)C(C)OC1=NC=C(C#N)C=C1 | C18H17Cl2N3O
